US07829585B2
6-Cyclopropylmethoxy-1H-indole-2-carboxylic acid methyl ester
To a tetrahydrofuran (8 mL) solution of 6-hydroxy-1H-indole-2-carboxylic acid methyl ester (395 mg, 2.07 mmol) described in Production Example 73-1-1 was added 5 N aqueous sodium hydroxide solution (414 μL, 2.07 mmol), which was concentrated under a reduced pressure. To an N,N-dimethylformamide (8 mL) solution of the residue was added cyclopropylmethyl bromide (241 μL, 2.48 mmol) at room temperature followed by stirring at room temperature for 12 hours. Moreover, after stirring at 50° C. for 4 hours, water was added to the reaction solution at room temperature followed by extraction with ethyl acetate. The organic layer was washed with water and sat. NaCl followed by drying over anhydrous magnesium sulfate and filtering. The filtrate was concentrated under a reduced pressure and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (297 mg, 59%) as a white solid.

reactant | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
reactant | 6-hydroxy-1H-indole-2-carboxylic acid methyl ester | 2.07 mmol, 395 mg | COC(=O)C=1NC2=CC(=CC=C2C1)O | C10H9NO3
reactant | sodium hydroxide | 2.07 mmol, 5 N, 414 μL | [OH-].[Na+]
reactant | cyclopropylmethyl bromide | 2.48 mmol, 241 μL | C1(CC1)CBr | C4H7Br
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 6-Cyclopropylmethoxy-1H-indole-2-carboxylic acid methyl ester | 297 mg, 59% | COC(=O)C=1NC2=CC(=CC=C2C1)OCC1CC1 | C14H15NO3
